US04293548
A solution is prepared from 3.3 g of 18-vinylidenepregn-4-ene-3,20-dione in the minimum amount of hot methanol and 700 mg of pyrrolidine is added to the hot solution. When the product begins to crystallize, the mixture is chilled rapidly in ice water. The mixture is diluted with methanol and the solid is separated by filtration and dried under high vacuum to give 3-(1-pyrrolidinyl)-18-vinylidenepregna-3,5-dien-20-one which is used in the next step without further purification.

reactant | 18-vinylidenepregn-4-ene-3,20-dione | 3.3 g | C(=C)=C[C@@]12CC[C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2CC[C@@H]1C(C)=O)=O)C | C23H30O2
reactant | pyrrolidine | 700 mg | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | 3-(1-pyrrolidinyl)-18-vinylidenepregna-3,5-dien-20-one | N1(CCCC1)C1=CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C=C=C | C27H37NO
